US09169215B2
To a clear light brown solution of 2,4-dimethoxybenzaldehyde (1.0 g, 6.02 mmol) and 5-amino-1H-pyrazole-4-carbonitrile (651 mg, 6.02 mmol) in methanol (21 mL) in a 50 mL sealed tube were added cyclopentane isonitrile (579 mg, 673 μL, 6.02 mmol) and perchloric acid (121 mg, 108 μL, 1.2 mmol) at RT under nitrogen atmosphere. Then, the nitrogen line was disconnected and the flask was sealed with a cap. The resulting dark brown solution slowly became a suspension within 10 minutes which was then stirred for 15 h at room temperature (RT). The off-white solids were collected by filtration and washed with methanol. After air drying, 1.09 g (51.5%) of 3-(cyclopentylamino)-2-(2,4-dimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile was isolated as an off-white solid. LC/MS calcd. for C19H21N5O2 (m/e) 351.408, obsd. 352.2 (M+H, ES+).

reactant | 2,4-dimethoxybenzaldehyde | 6.02 mmol, 1.0 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | 5-amino-1H-pyrazole-4-carbonitrile | 6.02 mmol, 651 mg | NC1=C(C=NN1)C#N | C4H4N4
reactant | cyclopentane isonitrile | 6.02 mmol, 673 μL, 579 mg | N#[C-].C1CCCC1
reactant | perchloric acid | 1.2 mmol, 108 μL, 121 mg | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 21 mL | CO | CH4O
product | 3-(cyclopentylamino)-2-(2,4-dimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 1.09 g, 51.5% | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=C(C=C(C=C2)OC)OC | C19H21N5O2
